US06759554B2
N-(4-Methylphenyl)-2-pyrrolidinone
An oven-dried resealable Schlenk tube was charged with CuI (20 mg, 0.105 mmol, 5.1 mol %), K2CO3 (600 mg, 4.34 mmol), evacuated and backfilled with argon. trans-1,2-Cyclohexanediamine (26 μL, 0.217 mmol, 11 mol %), 2-pyrrolidinone (155 μL, 2.04 mmol) and 4-chlorotoluene (1.0 mL, 8.44 mmol) were added under argon. The Schlenk tube was sealed and the reaction mixture was stirred magnetically at 140° C. for 42 h. The resulting suspension was cooled to room temperature and filtered through a 0.5×1 cm pad of silica gel eluting with 10 mL of ethyl acetate. The filtrate was concentrated and the residue was purified by flash chromatography on silica gel (2×20 cm; hexane-ethyl acetate 3:7; 20 mL fractions). Fractions 10-20 provided 223 mg (62% yield) of the product as white crystals. The 1H NMR spectrum was in accord with that reported by Boeyens et al. Billing, D. G.; Boeyens, J. C. A.; Denner, L.; Du Plooy, K. E.; Long, G. C.; Michael, J. P. Acta Cryst. (B) 1991, B47, 284.

reactant | K2CO3 | 4.34 mmol, 600 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | trans-1,2-Cyclohexanediamine | 0.217 mmol, 26 μL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | 2-pyrrolidinone | 2.04 mmol, 155 μL | N1C(CCC1)=O | C4H7NO
reactant | 4-chlorotoluene | 8.44 mmol, 1.0 mL | ClC1=CC=C(C=C1)C | C7H7Cl
catalyst | CuI | 0.105 mmol, 20 mg | [Cu]I
product | N-(4-Methylphenyl)-2-pyrrolidinone | 223 mg, 62% yield | CC1=CC=C(C=C1)N1C(CCC1)=O | C11H13NO
